US09102621B2
2-Cyclopropyl-3-(difluoromethoxy)pyridine
Cyclopropylboronic acid (383 mg, 4.5 mmol) and potassium phosphate tribasic (1.89 g, 8.9 mmol) were added to a solution of 2-bromo-3-difluoromethoxypyridine (Preparation 102, 570 mg, 2.5 mmol). The mixture was heated to 80° C. and degassed thoroughly by bubbling nitrogen through the mixture. After 30 minutes, the reaction was heated to 95° C. and tricyclohexylphosphine (84 mg, 0.30 mmol) was added followed by palladium acetate (32 mg, 0.14 mmol). The reaction was stirred at 95° C. for 18 hours then cooled to room temperature. The mixture was filtered through arbocel, washing with EtOAc and the filtrate concentrated in vacuo. The residue was then purified by flash column chromatography eluting with EtOAc:heptane 1:5 to afford the title compound as a colourless oil (273 mg, 58%).

reactant | Cyclopropylboronic acid | 4.5 mmol, 383 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate tribasic | 8.9 mmol, 1.89 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-bromo-3-difluoromethoxypyridine | 2.5 mmol, 570 mg | BrC1=NC=CC=C1OC(F)F | C6H4BrF2NO
reactant | tricyclohexylphosphine | 0.30 mmol, 84 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | palladium acetate | 0.14 mmol, 32 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Cyclopropyl-3-(difluoromethoxy)pyridine | 273 mg, 58% | C1(CC1)C1=NC=CC=C1OC(F)F | C9H9F2NO
